US06680317B2
Preparation of N-[4-Chloro-2-hydroxy-3-(N″,N″-dimethylaminosulfonyl)phenyl]-N′-(2-chlorophenyl)cyanoguanidine
Following the general procedure for protected phenyl thiourea formation outlined in example 12, N-[4-chloro-2-hydroxy-3-(N″,N″-dimethylaminosulfonyl)phenyl]-N′-(2-chlorophenyl)thiourea (500 mg, 1.19 mmol), tert-butyldimethylsilyl chloride (897 mg, 5.95 mmol) and imidazole (162 mg, 2.38 mmol) were reacted to form the desired product (311 mg, 49%). EI-MS m/z 535.32 (M+).

reactant | phenyl thiourea | C1(=CC=CC=C1)NC(=S)N | C7H8N2S
reactant | N-[4-chloro-2-hydroxy-3-(N″,N″-dimethylaminosulfonyl)phenyl]-N′-(2-chlorophenyl)thiourea | 1.19 mmol, 500 mg | ClC1=C(C(=C(C=C1)NC(=S)NC1=C(C=CC=C1)Cl)O)S(=O)(=O)N(C)C | C15H15Cl2N3O3S2
reactant | tert-butyldimethylsilyl chloride | 5.95 mmol, 897 mg | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 2.38 mmol, 162 mg | N1C=NC=C1 | C3H4N2
product | N-[4-Chloro-2-hydroxy-3-(N″,N″-dimethylaminosulfonyl)phenyl]-N′-(2-chlorophenyl)cyanoguanidine | 311 mg, 49% | ClC1=C(C(=C(C=C1)N(C(=N)NC1=C(C=CC=C1)Cl)C#N)O)S(=O)(=O)N(C)C | C16H15Cl2N5O3S
